US04503256
Phloroglucinol was treated with prenylchloride using the same procedure as described in Example 2 to yield prenylphloroglucinol. Prenylphloroglucinol was treated with butyrylchloride, according to the same procedure as described for the preparation of 2,4-dibutyrylphoroglucinol in Example 34 (Method 2) to yield 5,7-dihydroxy-6,8-dibutyryl-2,2-dimethylchroman (36 after chromatography with silica gel (petroleum ether, ethyl acetate, 4:1).

reactant | Phloroglucinol | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | prenylchloride | C(C=C(C)C)Cl | C5H9Cl
product | prenylphloroglucinol | C(C=C(C)C)C1=C(O)C=C(C=C1O)O | C11H14O3
